US09034866B2
10-bromo-9-fluoro-3-(pyrrolidin-1-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one similarly to as described in General Procedure F with non-critical modifications to afford 3 mg (3.3%) of 9-fluoro-10-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-3-(pyrrolidin-1-ylmethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide. M+1=468.2.

reactant | 10-bromo-9-fluoro-3-(pyrrolidin-1-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3CCCC3)C1)F | C17H18BrFN4O2
reactant | (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
product | 9-fluoro-10-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-3-(pyrrolidin-1-ylmethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 3 mg, 3.3% | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3CCCC3)C=C1C#C[C@]1(C(N(CC1)C)=O)O | C24H26FN5O4
